US07335658B2
6-[4-(2,2-DIMETHYLPROPIONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 3, making variations only as required to use 2,2-dimethylpropionyl chloride in place of isoxazole-5-carbonyl chloride to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white solid (64% yield). 1H NMR (300 MHz, CDCl3) δ 8.05, 8.01, 6.98, 3.86-3.73, 3.57, 1.57-1.48, 0.79-0.70, 0.52-0.45, 0.16-0.12. MS (ES+) m/z 360.0 (M+1).

reactant | 2,2-dimethylpropionyl chloride | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(2,2-DIMETHYLPROPIONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C(C)(C)C)=O | C19H29N5O2
